US04154850
Sodium (0.69 g; 0.03 M.) was dissolved in absolute ethanol (30 ml.) with protection from atmospheric moisture. Ethyl 4-hydroxybenzoate (4.98 g; 0.03 M.) in absolute ethanol (20 ml.) was added and the mixture was stirred at room temperature for 30 minutes. A solution of 1-bromo-15-(4-chlorophenoxy)-pentadecan-11-one (8.62 g. 0.02 M.) in absolute ethanol (30 ml.) was added and the mixture was boiled under reflux with stirring for 8 hours. After cooling to room temperature dichloromethane (200 ml.) was added, the mixture was extracted with 5% sodium hydroxide solution (2×100 ml.) and water (1×100 ml.). The solution was dried (MgSO4), the solvent evaporated under reduced pressure and the crude product (8.75 g.) was purified by chromatography on silica-gel (300 g.) in dichloromethane to give 1-(ethoxycarbonylphenoxy)-15-(4-chlorophenoxy)-pentadecan-11-one (5.07 g.; 33%), M.P. 95°-96° C.

reactant | Sodium | 0.03 M, 0.69 g | [Na] | Na
reactant | Ethyl 4-hydroxybenzoate | 0.03 M, 4.98 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 1-bromo-15-(4-chlorophenoxy)-pentadecan-11-one | 0.02 M, 8.62 g | BrCCCCCCCCCCC(CCCCOC1=CC=C(C=C1)Cl)=O | C21H32BrClO2
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(ethoxycarbonylphenoxy)-15-(4-chlorophenoxy)-pentadecan-11-one | 5.07 g, 33% | C(C)OC(=O)C1=C(OCCCCCCCCCCC(CCCCOC2=CC=C(C=C2)Cl)=O)C=CC=C1 | C30H41ClO5
